US08349824B2
A mixture of ethyl 5-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate (330 mg, 926 μmol) and lithium hydroxide monohydrate (155 mg, 3.7 mmol) in methanol (6 ml) and water (2 ml) is stirred for 18 hours at 25° C. The solvents are evaporated, the white residue is dissolved in water and acidified with 37% aqueous hydrochloric acid. The precipitated white solid is collected by filtration, washed with water and dried affording 5-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (285 mg, 93.7%) as a white solid. Mp.: >250° C. MS: m/z=327.3 (M−H+).

reactant | ethyl 5-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate | 926 μmol, 330 mg | C(C)(C)C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)OCC)=N1 | C17H20N6O3
reactant | lithium hydroxide monohydrate | 3.7 mmol, 155 mg | O.[OH-].[Li+]
solvent | methanol | 6 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 5-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 285 mg, 93.7% | C(C)(C)C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C15H16N6O3
